US06605617B2
4-Amino-3-(1H-benzimidazol-2-yl)-5-(4-ethylpiperazin-1-yl)quinolin-2(1H)-one
t-BuLi (3.1 eq) was added to ethyl 2-benzimidazol-2-ylacetate (1.0 eq) and 6-amino-2-(4-ethylpiperazinyl)benzenecarbonitrile (1.0 eq) in THF at 0° C. The reaction was stirred overnight. The resulting mixture was quenched with NH4Cl (aq, saturated) and extracted with EtOAc. The combined organic layers were washed with H2O and brine, dried over Na2SO4, filtered, and concentrated in vacuo to yield a brown solid. The crude material was triturated with CH2Cl2 and MeOH to provide a tan solid. LC/MS m/z 389.1 (MH+), Rf 1.80 minutes.

reactant | t-BuLi | 3.1 eq | [Li]C(C)(C)C
reactant | ethyl 2-benzimidazol-2-ylacetate | 1.0 eq | N1=C(NC2=C1C=CC=C2)CC(=O)OCC | C11H12N2O2
reactant | 6-amino-2-(4-ethylpiperazinyl)benzenecarbonitrile | 1.0 eq | NC1=CC=CC(=C1C#N)N1CCN(CC1)CC | C13H18N4
solvent | THF | C1CCOC1 | C4H8O
product | 4-Amino-3-(1H-benzimidazol-2-yl)-5-(4-ethylpiperazin-1-yl)quinolin-2(1H)-one | NC1=C(C(NC2=CC=CC(=C12)N1CCN(CC1)CC)=O)C1=NC2=C(N1)C=CC=C2 | C22H24N6O
